US04732912
The mesyloxy compounds used as starting materials were all prepared by a similar process to that described in Example 7 by mesylation of the corresponding carbinol, and the carbinols themselves were obtained by similar methods to those described above. Thus the first two carbinols were obtained by the reaction of 3-[(1RS,2RS)-6-methoxy-2-p-methoxyphenyl-1,2,3,4-tetrahydronaphth-1-yl]propionaldehyde with, respectively, diethyl p-(1-methyl-2-tetrahydropyranyloxyethyl)phenylmethylphosphonate (prepared from t-butyl p-tolylacetate by al-pha-methylation with methyl iodide in the presence of lithium diisopropylamide, bromination with N-bromosuccinimide, reduction of the ester to the carbinol with diisobutylaluminium hydride, tetrahydropyranylation, and finally reaction with triethyl phosphite, the last four stages being carried out in a similar manner to that described in Example 3) and diethyl p-(1,1-dimethyl-2-tetrahydropyranyloxyethyl) enylmethylphosphonate (also prepared from t-butyl p-tolylacetate, as described above, except that the alphamethylation step was repeated to produce as intermediate t-butyl 2-methyl-2-p-tolylpropionate).

reactant | t-butyl p-tolylacetate | C1(=CC=C(C=C1)CC(=O)OC(C)(C)C)C | C13H18O2
reactant | methyl iodide | CI | CH3I
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
solvent | carbinol | CO | CH4O
product | t-butyl 2-methyl-2-p-tolylpropionate | CC(C(=O)OC(C)(C)C)(C)C1=CC=C(C=C1)C | C15H22O2
